US05306728
Production of 2-(3-thienylmethoxy)ethanol
621 mg of ethylene glycol was dissolved in 1 ml of tetrahydrofuran, and 88 mg of 60% oily sodium hydride and 0.5 ml of dimethylformamide were added. After the mixture was stirred at room temperature for 5 minutes, a tetrahydrofuran solution(1 ml) of 200 mg of 3-bromomethylthiophene was added. The mixture was stirred at 60 ° C. for 2 hours, and then the solvent was evaporated. The residue was worked up in a customary manner to give 181 mg of the captioned compound as a pale yellow oil.

reactant | ethylene glycol | 621 mg | C(CO)O | C2H6O2
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | 3-bromomethylthiophene | 200 mg | BrCC1=CSC=C1 | C5H5BrS
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-(3-thienylmethoxy)ethanol | 181 mg | S1C=C(C=C1)COCCO | C7H10O2S
